US09341743B2
To a 250 mL flask, 4.8 g of tetrachlorophthalonitrile, 3.98 g of methyl 4-hydroxybenzoate, 5 g of potassium carbonate (K2CO3), and 55 mL of acetonitrile are added, followed by heating for 12 hours while refluxing. After completion of the reaction, 30 mL of ethyl acetate is added and filtered to remove the solvent. To the obtained solid, a suitable amount of dichloromethane is added to dissolve the solid, followed by adding hexane for crystallization. The obtained solid is filtered and dried under vacuum to obtain a compound, methyl 4-(2,3,6-trichloro-4,5-dicyano-phenoxy)benzoate. The first step reaction may be represented by Reaction Scheme 1:

reactant | tetrachlorophthalonitrile | 4.8 g | ClC=1C(=C(C(=C(C1C#N)C#N)Cl)Cl)Cl | C8Cl4N2
reactant | methyl 4-hydroxybenzoate | 3.98 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 55 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-(2,3,6-trichloro-4,5-dicyano-phenoxy)benzoate | ClC1=C(OC2=CC=C(C(=O)OC)C=C2)C(=C(C(=C1Cl)C#N)C#N)Cl | C16H7Cl3N2O3
